US09034866B2
Methyl 9-bromo-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (0.2 g) was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure F but substituting CuI for ZnBr and Dioxane as the solvent to afford 70 mg of methyl 9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate following reverse phase hplc purification. MS (Q1) 411.2 (M)+. Methyl 9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate (70 mg) was saponified with LiOH in THF/water followed by similar to as described in Example 2 to afford 39.7 mg of 9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxamide following reverse phase hplc purification. MS (Q1) 396 (M)+. 1H NMR (400 MHz, DMSO) δ 8.60 (d, J=2.1 Hz, 1H), 8.42 (s, 1H), 7.85 (s, 1H), 7.31 (dd, J=8.3, 2.2 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 6.46 (s, 1H), 6.36 (s, 1H), 4.35 (t, J=4.9 Hz, 2H), 3.41 (t, J=4.9 Hz, 2H), 2.41 (s, 3H), 1.81 (s, 3H).

reactant | Methyl 9-bromo-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | 0.2 g | BrC=1C=CC2=C(C1)C=1N=C(SC1CCO2)C(=O)OC | C13H10BrNO3S
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
solvent | Dioxane | O1CCOCC1 | C4H8O2
product | methyl 9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydro-[1]benzoxepino[5,4-d]thiazole-2-carboxylate | 70 mg | O[C@@](C#CC=1C=CC2=C(C1)C=1N=C(SC1CCO2)C(=O)OC)(C)C2=NOC(=C2)C | C21H18N2O5S
